US07863023B2
Once the amount and the quality of mycelium have been attained, the substrate (lauric acid) is dispensed in mygliol. Glucose is continuously dispensed, in parallel, at the flow rate of 0.36 g/l/h for 55 h. The pH is regulated at 7 throughout the duration of the fermentation, with 5 N NaOH. The speed is increased to 900 rpm and aeration is carried out at the flow rate of 1 vvm, i.e. 12 m3/h. The conversion is pursued for 55 hours. A yield of 12 g/l of (S)-gamma-dodecalactone is obtained. By way of comparison, gamma-dodecalactones are prepared according to the teaching of patent U.S. Pat. No. 5,457,036 (Han), using the Mortierella strains described in U.S. Pat. No. 5,457,036.

reactant | lauric acid | C(CCCCCCCCCCC)(=O)O | C12H24O2
reactant | Glucose | O=C[C@H](O)[C@@H](O)[C@H](O)[C@H](O)CO | C6H12O6
reactant | NaOH | 5 N | [OH-].[Na+]
product | (S)-gamma-dodecalactone | CCCCCCCC[C@H]1CCC(=O)O1 | C12H22O2
